US05093328
To a solution of (2R,4R)-1-p-nitrobenzyloxycarbonyl-2-(2-methylaminocarbonylethyl)-4-hydroxypyrrolidine (1.52 g) in tetrahydrofuran (15 ml) and ethanol (15 ml), 10 palladium-carbon (228 mg) was added. The mixture was stirred at room temperature for 3.5 hours under an atmospheric pressure of hydrogen. The reaction mixture was filtered to remove the catalyst. The filtrate was concentrated, and the residue was combined with water, washed with dichloromethane and lyophilized to give (2R,4R)-2-(2-methylaminocarbonylethyl)-4-hydroxypyrrolidine.

reactant | (2R,4R)-1-p-nitrobenzyloxycarbonyl-2-(2-methylaminocarbonylethyl)-4-hydroxypyrrolidine | 1.52 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)O)CCC(=O)NC)C=C1 | C16H21N3O6
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 228 mg | [C].[Pd]
product | (2R,4R)-2-(2-methylaminocarbonylethyl)-4-hydroxypyrrolidine | CNC(=O)CC[C@H]1NC[C@@H](C1)O | C8H16N2O2
